US05670505
To a solution of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.1 g) in dichloromethane (10 ml) was added 4N hydrogen chloride in dioxane solution (0.05 ml) at 0° C. The resulting mixture was stirred at the same temperature for 50 minutes and then concentrated under reduced pressure. The obtained powder was collected by filtration and washed with ethyl ether to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine hydrochloride (0.1 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.1 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dioxane | 0.05 ml | O1CCOCC1 | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine hydrochloride | 0.1 g | Cl.FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C22H19F6N3O.ClH/c23-21(24,25)15-7-13(8-16(10-15)22(26,27)28)20(32)31-6-5-29-12-17(31)9-14-11-30-19-4-2-1-3-18(14)19;/h1-4,7-8,10-11,17,29-30H,5-6,9,12H2;1H/t17-;/m1./s1
